US05840751
5,6-Dihydro-4-hydroxy-6-(4-methylphenyl) -2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 10 mL of methyl acetoacetate, 3.7 g of NaH 60% dispersion in oil, 58 mL of 1.6M n-butyl lithium in hexane, 10.9 mL of p-tolualdehyde and 250 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 138°-139° C.). 1H NMR (CDCl3) δ 2.39 (s, 3 H), 2.93 (dd, 2 H), 3.58 (dd, 2 H), 5.69 (dd, 1 H), 7.23-7.31 (m, 4 H).

reactant | methyl acetoacetate | 10 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 3.7 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 58 mL | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
solvent | p-tolualdehyde | 10.9 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-(4-methylphenyl) -2H-pyran-2-one | OC1=CC(OC(C1)C1=CC=C(C=C1)C)=O | C12H12O3
